US04321202
N,N-Dimethyl-N'-phenylacetamidine
The conventional procedure of Example 1 was repeated except that 32.7 g (0.375 mole) of N,N-dimethylacetamide was substituted for the benzamide and a solution of 11.6 g aniline in 50 ml of benzene was utilized. Workup as in Example 1 yielded N,N-dimethyl-N-phenylacetamidine in form of a colorless oil, b.p. 73° C. at 0.12 mm of mercury in only 53% yield based on aniline or 49% yield based on POCl3 and a meager 19.5% yield based on the acetamide.

reactant | N,N-dimethylacetamide | 0.375 mole, 32.7 g | CN(C(C)=O)C | C4H9NO
reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | aniline | 11.6 g | NC1=CC=CC=C1 | C6H7N
reactant | acetamide | C(C)(=O)N | C2H5NO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | N,N-Dimethyl-N'-phenylacetamidine | 53% yield | CN(C(C)=NC1=CC=CC=C1)C | C10H14N2
